* lsdl_aoi21_x1 — LSDL AOI21, X1. Paper Fig.1 series-parallel eval.
* Out = !((A1 & A2) + B). GF180 5V pfet_05v0/nfet_05v0.

.SUBCKT lsdl_aoi21_x1 A1 A2 B Clk Out VPWR VGND

XPRE      dyn        Clk   VPWR       VPWR  pfet_05v0  W=1.0u  L=0.5u

XNA       dyn        A1    nint       VGND  nfet_05v0  W=0.8u  L=0.6u
XNB       nint       A2    foot_top   VGND  nfet_05v0  W=0.8u  L=0.6u
XNC       dyn        B     foot_top   VGND  nfet_05v0  W=0.8u  L=0.6u
XFOOT     foot_top   Clk   VGND       VGND  nfet_05v0  W=0.8u  L=0.6u

XPDRVP    out_b      dyn   VPWR       VPWR  pfet_05v0  W=3.0u  L=0.5u
XHDR      hdr_src    Clk   VGND       VGND  nfet_05v0  W=0.8u  L=0.6u
XPDRVN    out_b      dyn   hdr_src    VGND  nfet_05v0  W=0.4u  L=0.6u
XFBP      cut_fb_src Out   VPWR       VPWR  pfet_05v0  W=0.5u  L=0.5u
XCUTFB    out_b      Clk   cut_fb_src VPWR  pfet_05v0  W=0.5u  L=0.5u
XFBN      out_b      Out   VGND       VGND  nfet_05v0  W=0.5u  L=0.6u
XODRVP    Out        out_b VPWR       VPWR  pfet_05v0  W=1.5u  L=0.5u
XODRVN    Out        out_b VGND       VGND  nfet_05v0  W=0.9u  L=0.6u

.ENDS lsdl_aoi21_x1
